US07829560B2
N-(4-{[2-(Cyclopropylamino)pyrimidin-4-yl]oxy}-1-naphthyl)-3-fluoro-5-morpholin-4-ylbenzamide (Compound B321).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl) pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and cyclopropylamine according to conditions described in general procedure C. Mp: 118-120° C.; 1H NMR (400 MHz, CDCl3) δ 0.42-0.49 (m, 2 H), 0.70 (d, J=5.6 Hz, 2 H), 2.65 (s, 1 H), 3.25 (t, J=4.0 Hz, 4 H), 3.86 (t, J=4.8 Hz, 4H), 5.25 (s, 1 H), 6.15 (d, J=4.8 Hz, 1 H), 6.78 (d, J=11.6 Hz, 1 H), 7.06 (d, J=8.4 Hz, 2 H), 7.26-7.31 (m, 2 H), 7.49-7.57 (m, 2 H), 7.89 (d, J=8.0 Hz, 1 H), 7.96 (d, J=8.0 Hz, 1 H), 8.15 (s, 1 H), 8.20 (d, J=4.4 Hz, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl) pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-(4-{[2-(Cyclopropylamino)pyrimidin-4-yl]oxy}-1-naphthyl)-3-fluoro-5-morpholin-4-ylbenzamide | C1(CC1)NC1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O | C28H26FN5O3
